US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-phenoxy)-butyric acid
The title compound was prepared by the same method as 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid starting from 4-[3-{6-[5-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (105 mg, 0.148 mmol) and 1.0 N aqueous NaOH (1.48 mL) in EtOH (5 mL) to afford 4-(2-(2-carboxy-ethyl)-3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-phenoxy)-butyric acid (94.6 mg, 98%) as a white amorphous solid.

reactant | 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F | C34H39F2NO7
reactant | 4-[3-{6-[5-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.148 mmol, 105 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(=O)N1CC(CC1)(F)F)C1=CC(=CC=C1)F)CCC(=O)OCC)=O | C40H48F3NO7
reactant | NaOH | 1.0 N, 1.48 mL | [OH-].[Na+]
reactant | EtOH | 5 mL | CCO | C2H6O
product | 4-(2-(2-carboxy-ethyl)-3-{6-[3-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-phenoxy)-butyric acid | 94.6 mg, 98% | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1(CC(=CC=C1)C1=CC(=CC=C1)F)C(=O)N1CC(CC1)(F)F | C36H42F3NO7
